US04617393
6-[(Cyclopropylmethyl)amino]-2,5-dimethyl-4-pyrimidinol
To 3.92 g (36.3 mmol, 4 equiv.) of (aminomethyl)cyclopropane hydrochloride was added 2.5 g (44.6 mmol) of potassium hydroxide dissolved in 10 mL of water. The resulting slurry was thoroughly mixed and then dried with 1.0 g of KOH. The free amine was filtered through anhydrous K2CO3 with dry THF rinses (3×2 mL) into 1.44 g (9.08 mmol) of 6-chloro-2,5-dimethyl-4-pyrimidinol. The stirred clear solution was heated at 80° C. for 31/2 days in a sealed 40 mL tube. The cooled, 23° C., mixture was purified by flash chromatography (silica gel, 41 mm column, 5% MeOH in EtoAc as eluant) to afford 1.42 g (7.36 mmol, 81%) of pure product m.p. 227°-228° C.

reactant | (aminomethyl)cyclopropane hydrochloride | 36.3 mmol, 3.92 g, 4 equiv. | Cl.NCC1CC1
reactant | potassium hydroxide | 44.6 mmol, 2.5 g | [OH-].[K+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-chloro-2,5-dimethyl-4-pyrimidinol | 9.08 mmol, 1.44 g | ClC1=C(C(=NC(=N1)C)O)C | C6H7ClN2O
solvent | water | 10 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 6-[(Cyclopropylmethyl)amino]-2,5-dimethyl-4-pyrimidinol | 7.36 mmol, 1.42 g, 81% | C1(CC1)CNC1=C(C(=NC(=N1)C)O)C | C10H15N3O
